US04447441
A mixture of 4-(6-aminopyrid-2-ylthio)butyric acid (0.21 g.), DMF (3 ml.) and 2,2,2-trifluoroethylisothiocyanate (0.15 g.) was left at room temperature for 18 hours and then evaporated to dryness. A solution of the residue in methanolic ammonia was treated with yellow mercuric oxide (0.43 g.) and the mixture stirred at room temperature for 1 hour. The mixture was filtered and the filtrate evaporated to dryness and the residue treated with 2 N aqueous NaOH (5 ml.) and then filtered. The filtrate was acidified with HOAc and the precipitate collected to give 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyric acid (0.17 g.) which was used without further purification.

reactant | 4-(6-aminopyrid-2-ylthio)butyric acid | 0.21 g | NC1=CC=CC(=N1)SCCCC(=O)O | C9H12N2O2S
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.15 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyric acid | 0.17 g | FC(CN=C(NC1=CC=CC(=N1)SCCCC(=O)O)N)(F)F | C12H15F3N4O2S
